US07371743B2
(b) methyl 4-(1,1-dioxo-isothiazolidin-2-yl)-3-methyl-benzoate
370 mg (0.85 mmol) 70% methyl 4-(3-chloropropane-sulphonylamino)-3-methyl-benzoate dissolved in 26 ml DMF are combined with 275 mg (2.45 mmol) potassium-tert.-butoxide and stirred for 16 hours at ambient temperature. The reaction mixture is combined with water and extracted with ethyl acetate. The combined organic phases are dried over sodium sulphate, evaporated down i. vac. and the residue is purified by chromatography on silica gel (eluant: dichloromethane/isopropanol 98:2).

reactant | methyl 4-(3-chloropropane-sulphonylamino)-3-methyl-benzoate | 0.85 mmol, 370 mg | ClCCCS(=O)(=O)NC1=C(C=C(C(=O)OC)C=C1)C | C12H16ClNO4S
reactant | potassium tert.-butoxide | 2.45 mmol, 275 mg | [K].CC(C)([O-])C
reactant | water | O | H2O
solvent | DMF | 26 ml | CN(C)C=O | C3H7NO
product | methyl 4-(1,1-dioxo-isothiazolidin-2-yl)-3-methyl-benzoate | O=S1(N(CCC1)C1=C(C=C(C(=O)OC)C=C1)C)=O | C12H15NO4S
